US09260397B2
3-ethyl-1-(2,4-dimethylphenyl)imidazolium bromide
According to the general synthesis procedure, 2.91 mmol (0.500 g) 1-(2,4-dimethylphenyl)imidazole and 3.20 mmol (0.392 g) 1-bromopropane are dissolved in 5 ml THF and heated for 6 h to 120° C.

reactant | 1-(2,4-dimethylphenyl)imidazole | 2.91 mmol, 0.500 g | CC1=C(C=CC(=C1)C)N1C=NC=C1 | C11H12N2
reactant | 1-bromopropane | 3.20 mmol, 0.392 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-ethyl-1-(2,4-dimethylphenyl)imidazolium bromide | [Br-].C(C)N1C=[N+](C=C1)C1=C(C=C(C=C1)C)C | InChI=1S/C13H17N2.BrH/c1-4-14-7-8-15(10-14)13-6-5-11(2)9-12(13)3;/h5-10H,4H2,1-3H3;1H/q+1;/p-1
